US07358253B2
f) (3-Benzyloxy-naphthalen-1-yl)-acetic acid ethyl ester
3-Benzyloxy-1-bromo-naphthalene (5.64 g, 18.01 mmol) is dissolved under an atmosphere of argon in dry DMF (100 ml). Tributylstannanyl-acetic acid ethyl ester (7.47 g, 19.81 mmol) is added, as well as [bis(tri-ortho-tolyl-phosphine)]palladium (II) dichloride (2.83 g, 3.60 mmol) and zinc(II) bromide (5.27 g, 23.41 mmol). The reaction mixture is heated to 80° C. for 3 h. The reaction mixture is diluted with EtOAc and washed twice with diluted brine (back extracted). The combined organic layers are dried over Na2SO4, the solvent is removed, and the residue is purified by FCC (hexane/EtOAc 100:0 to 97.5:2.5 to 95:5 to 90:10). The resulting oil, still containing tin residues, is stirred in a 1:1 mixture of EtOAc/1N NaOH (200 ml) for 1 h. The mixture is extracted twice with EtOAc. The combined organic layers are washed twice with H2O (back extracted), dried over Na2SO4 and concentrated. The residue is purified by FCC (hexane/EtOAc 100:0 to 97:3 to 95:5 to 93:7 to 92:8 to 90:10) to yield the title compound. 1H NMR (DMSO, 400 MHz) δ 1.18 (t, J=7.2 Hz, 3H), 4.10 (q, J=7.2 Hz, 2H), 4.11 (s, 2H), 5.25 (s, 2H), 7.21 (d, J=3.0 Hz, 1H), 7.41 (m, 8H), 7.53 (d, J=6.6 Hz, 1H), 7.84 (dd, J=7.2 Hz, 1H); ES-MS: 320 [M+H]+.

reactant | 3-Benzyloxy-1-bromo-naphthalene | 18.01 mmol, 5.64 g | C(C1=CC=CC=C1)OC=1C=C(C2=CC=CC=C2C1)Br | C17H13BrO
reactant | Tributylstannanyl-acetic acid ethyl ester | 19.81 mmol, 7.47 g | C(C)OC(C[Sn](CCCC)(CCCC)CCCC)=O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | zinc(II) bromide | 23.41 mmol, 5.27 g | [Br-].[Zn+2].[Br-]
product | (3-Benzyloxy-naphthalen-1-yl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC2=CC=CC=C12)OCC1=CC=CC=C1)=O | C21H20O3
